US09382243B2
(2R,3 S,5R)-5-((6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol
A 10 mL reaction tube was charged with bis(pinacolato)diboron (123 mg, 0.484 mmol), Palladium, [2′-(amino-κN)[1,1′-biphenyl]-2-yl-κC][butylbis(tricyclo-[3.3.1.13,7]dec-1-yl)phosphine]chloro (CAS number: 1375477-29-4, 29.4 mg, 0.044 mmol), (2R,3S,5R)-5-((5-(4-bromophenyl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol (200 mg, 0.440 mmol), and potassium acetate (86 mg, 0.880 mmol). The reaction tube was evacuated and backfilled with N2 (×2). Degassed CPME (1759 μl) was added and the reaction was heated to 85° C. overnight. The reaction mixture was then concentrated and purified by column chromatography on a Biotage™ 25 g column by eluting with 1% to 15% MeOH in CHCl3. LC-MS: calculated for C24H29BClN3O6 501.18 observed m/e: 502.22 (M+H)+ (Rt 2.01/4 min).

reactant | bis(pinacolato)diboron | 0.484 mmol, 123 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | (2R,3S,5R)-5-((5-(4-bromophenyl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | 0.440 mmol, 200 mg | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)CO)O)Cl | C18H17BrClN3O4
reactant | potassium acetate | 0.880 mmol, 86 mg | C(C)(=O)[O-].[K+]
catalyst | Palladium | [Pd] | Pd
product | (2R,3 S,5R)-5-((6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)CO)O | C24H29BClN3O6
